US06407096B1
5-(t-butyldimethylsiloxy)-1,2,3,4-tetrahydroquinoline
5-(t-butyldimethylsiloxy)quinoline (1715 mg) was dissolved in ethanol (50 ml), and the air in a reactor was substituted by argon. 10% Pd—C (100 mg) was added to the resultant solution, and the mixture was stirred at room temperature in the reactor in which the atmosphere was replaced by hydrogen. After disappearance of the raw materials was confirmed, the solid was filtered off, and the filtrate was concentrated. The resultant residue was purified by column chromatography (silica gel:hexane/ethyl acetate=10/1) to obtain the object compound (1426 mg, yield 82%).

reactant | 5-(t-butyldimethylsiloxy)quinoline | 1715 mg | O([Si](C)(C)C(C)(C)C)C1=C2C=CC=NC2=CC=C1 | C15H21NOSi
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Pd—C | 100 mg | [Pd] | Pd
product | 5-(t-butyldimethylsiloxy)-1,2,3,4-tetrahydroquinoline | 1426 mg, yield 82% | O([Si](C)(C)C(C)(C)C)C1=C2CCCNC2=CC=C1 | C15H25NOSi
